US07495007B2
Preparation of intermediate E/Z-3-[2-(3-tert-butoxycarbonyloxy-propoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-6-chloro-3-[5-chloro-2-(3-hydroxy-propoxy)-benzylidene]-1,3-dihydro-indol-2-one (11.8 g, 31.6 mmol) in dichloromethane (100 mL) at r.t was added di-tert-butyl-dicarbonate (15 g, 69 mmol), followed by the addition of 4-dimethylaminopyridine (0.4 g, 3 mmol). The reaction mixture was stirred for 2 h and washed with 0.1N hydrochloride, then the solvent was removed to give title compound. (Yield: 12 g)

reactant | Z-6-chloro-3-[5-chloro-2-(3-hydroxy-propoxy)-benzylidene]-1,3-dihydro-indol-2-one | 31.6 mmol, 11.8 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCCCO | C18H15Cl2NO3
reactant | di-tert-butyl-dicarbonate | 69 mmol, 15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3 mmol, 0.4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-3-[2-(3-tert-butoxycarbonyloxy-propoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCCCOC(=O)OC(C)(C)C)=O | C28H31Cl2NO7
